US09034900B2
Step 1: 3-nitro-4-hydroxy-1-methylpyridin-2-one
To 4-hydroxy-3-nitro-1H-pyridin-2-one (300 mg, 1.9 mmol) in DMF (5 mL) was added NaH (176 mg, 4.4 mmol, 60% in mineral oil) at 0° C. under N2. After stirring at 0° C. for 30 min, CH3I (272 mg, 1.9 mmol) in DMF (5 mL) was added dropwise, and the mixture was stirred for 2 h at 25° C. Saturated aqueous NH4Cl was added, the pH was adjusted to −3 with 1N HCl and EA extractive work up gave a residue that was triturated with MeOH (0.5 ml):EA (10 mL):PE (5 mL). After filtration, the trituratate was evaporated to give the title compound (300 mg, 91%) as a yellow solid. 1H NMR: (CDCl3, 400 MHz) δ: 7.75 (d, J=7.2 Hz, 1H), 6.17 (d, J=7.2 Hz, 1H) 3.54 (s, 3H). LCMS: 171.0 (M+1)+

reactant | 4-hydroxy-3-nitro-1H-pyridin-2-one | 1.9 mmol, 300 mg | OC1=C(C(NC=C1)=O)[N+](=O)[O-] | C5H4N2O4
reactant | NaH | 4.4 mmol, 176 mg | [H-].[Na+]
reactant | CH3I | 1.9 mmol, 272 mg | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-nitro-4-hydroxy-1-methylpyridin-2-one | 300 mg, 91% | [N+](=O)([O-])C=1C(N(C=CC1O)C)=O | C6H6N2O4
